US07449477B2
(R)-7-Phenyl-isoquinoline-5-sulfonic acid [2-(3-hydroxy-3-phenyl-propylamino)-ethyl]-amide, dihydrochloride salt
Add sodium iodide (4.29 g, 29 mmol) to a solution of (R)-(+)-3-chloro-1-phenyl-1-propanol (0.5 g, 2.93 mmol) in acetone (9.75 mL), and heat to reflux overnight. Cool and filter the suspension, then remove the volatiles under reduced pressure. Resuspend the residue in ether, filter and evaporate to afford (R)-3-iodo-1-phenyl-1-propanol (0.71 g). Add (R)-3-iodo-1-phenyl-1-propanol (0.1 g, 0.4 mmol) to a solution of 7-phenyl-isoquinoline -5-sulfonic acid (2-amino-ethyl)-amide (0.087 g, 0.27 mmol) in DMF (0.5 mL) and DCE (0.27 mL) containing diisopropylethylamine (0.094 mL, 0.53 mmol), and warm to 80° C. for 30 minutes. Cool to ambient temperature, and apply to a cation exchange resin cartridge. Wash with methanol, and elute product from the resin with 2M methanolic ammonia. Evaporate and purify the residue by silica gel chromatography using a methanol-methylene chloride gradient, followed by treatment with aqueous hydrochloric acid and lyophylization to afford the title compound. 1H NMR (DMSO): δ9.71(s, 1H), 9.00-8.82 (m, 3H), 8.80-8.73(m, 2H), 8.69 (d, J=1.8 Hz, 1H), 8.59 (d, J=6.2 Hz, 1H), 7.95 (dd, J1=1.5 Hz, J2=8.5 Hz, 2H), 7.62 (t, J=6.7 Hz, 2H), 7.53 (t, J=7.8 Hz, 1H), 7.38-7.29 (m, 4H), 7.28-7.21 (m, 1H), 5.50-4.67 (bs, 2H), 4.65 (dd, J1=4.5 Hz, J2=8.5 Hz, 1H), 3.23-3.10 (m, 2H), 3.06-2.86 (m, 4H), 2.00=−1.77(m, 2H). LCMS: m/z 462(M+H)+460(M−H)−.

reactant | (R)-3-iodo-1-phenyl-1-propanol | 0.4 mmol, 0.1 g | ICC[C@@H](O)C1=CC=CC=C1 | C9H11IO
reactant | 7-phenyl-isoquinoline -5-sulfonic acid (2-amino-ethyl)-amide | 0.27 mmol, 0.087 g | NCCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC=CC=C1 | C17H17N3O2S
reactant | diisopropylethylamine | 0.53 mmol, 0.094 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DCE | 0.27 mL | ClCCCl | C2H4Cl2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (R)-7-Phenyl-isoquinoline-5-sulfonic acid [2-(3-hydroxy-3-phenyl-propylamino)-ethyl]-amide, dihydrochloride salt | Cl.Cl.O[C@H](CCNCCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H27N3O3S.2ClH/c30-25(21-9-5-2-6-10-21)12-14-27-15-16-29-33(31,32)26-18-22(20-7-3-1-4-8-20)17-23-19-28-13-11-24(23)26;;/h1-11,13,17-19,25,27,29-30H,12,14-16H2;2*1H/t25-;;/m1../s1
